US04371536
0.4 g of a 55% suspension of sodium hydride in mineral oil are added to a suspension of 2.1 g of β-carbolin-3-carboxylic acid in 25 ml of dimethyl formamide, and after a period of 5 minutes, 1.2 ml of ethyl chloracetate are added. The mixture is refluxed for 4 hours and subsequently dimethyl formamide is evaporated in vacuo. After addition of 100 ml of water to the remainder, the mixture is extracted with chloroform to form 1 g of carbethoxymethyl β-carbolin-3-carboxylate having a melting point of 202°-203° C.

reactant | sodium hydride | [H-].[Na+]
reactant | β-carbolin-3-carboxylic acid | 2.1 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C12H8N2O2
reactant | ethyl chloracetate | 1.2 ml | ClCC(=O)OCC | C4H7ClO2
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | carbethoxymethyl β-carbolin-3-carboxylate | 1 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OCC(=O)OCC | C16H14N2O4
